US07585867B2
a) 6-Amino-2-[[(2,3-difluorophenyl)methyl]thio]-4(3H)-pyrimidinone
4-Amino-6-hydroxy-2-mercaptopyrimidine monohydrate (7.1 g) was added portion wise to a stirred suspension of 60% sodium hydride (2.4 g) in dry N,N-dimethylformamide (70 ml). After 1 hour a solution of 2,3-Difluorobenzyl bromide (10 g) in dry N,N-dimethylformamide (10 ml) was added. Stirred over weekend at room temperature. Poured on to ice/water and the precipitate was collected by filtration to give 9.6 g of product. 81% yield.

reactant | 4-Amino-6-hydroxy-2-mercaptopyrimidine monohydrate | 7.1 g | O.NC1=NC(=NC(=C1)O)S
reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | 2,3-Difluorobenzyl bromide | 10 g | FC1=C(CBr)C=CC=C1F | C7H5BrF2
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-Amino-2-[[(2,3-difluorophenyl)methyl]thio]-4(3H)-pyrimidinone | 9.6 g, 81% yield | NC1=CC(NC(=N1)SCC1=C(C(=CC=C1)F)F)=O | C11H9F2N3OS
